US06635633B2
6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid (2-amino-ethyl)-amide
A stirred solution of 300 mg (0.43 mmol) 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid in 5 mL of dry DMF was treated with 812 mg (2.14 mmol) of HBTU and 0.75 mL (4.28 mmol) of DIEA. The solution was stirred for 5 min before the addition of 0.28 mL (4.28 mmol) of ethylenediamine. The reaction was stirred at room temperature for 30 min then partitioned between EtOAc (30 mL) and saturated sodium bicarbonate (20 mL). The aqueous layer was further extracted with EtOAc (2×20 mL). The combined organic layers were then washed with brine, dried over Na2SO4, and concentrated. Purification by column chromatography (silica, 5-10% of (2 N NH3 in MeOH)/CH2Cl2) afforded 200 mg (66%) of a clear oil. MS (electrospray): exact mass calculated for C33H38F4N6O3S2: 706.24; m/z found, 707.2 [M+H]+. 1H NMR (CD3OD, 400 MHz): 8.14 (m, 1H), 7.84 and 7.72 (A and B of AB quartet, J=8.41 Hz, 4H), 7.68 (m, 1H), 7.21 (dt, J=8.81, 2.74 Hz, 1H), 4.54 (s, 2H), 4.27 (t, J=6.26 Hz, 2H), 4.00-3.90 (m, 2H), 3.76-3.61 (m, 8H), 3.28-3.23 (br m, 1H), 3.19-3.09 (br m, 3H), 2.98 (s, 3H), 2.97-2.93 (m, 2H), 2.67 (br m, 2H), 2.52-2.37 (m, 3H), 2.02 (br d, J=13.89 Hz, 2H).

reactant | 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid | 0.43 mmol, 300 mg | FC=1C=CC2=C(SC(=C2C2CCN(CC2)CCCN2N=C(C=3CN(CCC32)S(=O)(=O)C)C3=CC=C(C=C3)C(F)(F)F)C(=O)O)C1 | C31H32F4N4O4S2
reactant | HBTU | 2.14 mmol, 812 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 4.28 mmol, 0.75 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethylenediamine | 4.28 mmol, 0.28 mL | C(CN)N | C2H8N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid (2-amino-ethyl)-amide | 200 mg, 66% | NCCNC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCN(CC2)CCCN2N=C(C=1CN(CCC12)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C33H38F4N6O3S2
